US05202351
To 10.2 g (46 mmol) of 2-(3,4-methylenedioxyphenyl) hexyl alcohol, were added 50 ml of dichloromethane and 7.7 ml (55 mmol) of triethylamine, and further added dropwise under cooling with ice 4.3 ml (55 mmol) of mesyl chloride. After stirring for one hour at room temperature, the reaction mixture was washed with saturated aqueous sodium hydrogencarbonate and dried over anhydrous magnesium sulfate. By evaporating off the solvent, 2-(3,4-methylenedioxyphenyl)hexyl methanesulfonate was obtained in an almost quantitative yield.

reactant | 2-(3,4-methylenedioxyphenyl) hexyl alcohol | 46 mmol, 10.2 g | C1OC=2C=C(C=CC2O1)C(CO)CCCC | C13H18O3
reactant | triethylamine | 55 mmol, 7.7 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(3,4-methylenedioxyphenyl)hexyl methanesulfonate | quantitative yield | CS(=O)(=O)OCC(CCCC)C1=CC2=C(C=C1)OCO2 | C14H20O5S
